US08030500B2
1-(3-Bromophenyl)-6-chloro-4-fluoro-1-(2-methylpyridin-4-yl)-1H-isoindol-3-amine
The title compound was synthesized as described for Example 11i in 83% yield, starting from N-((3-bromophenyl)(5-chloro-2-cyano-3-fluorophenyl)methylene)-2-methylpropane-2-sulfinamide (2 g, 4.53 mmol) and 4-bromo-2-methylpyridine (0.935 g, 5.43 mmol)

reactant | N-((3-bromophenyl)(5-chloro-2-cyano-3-fluorophenyl)methylene)-2-methylpropane-2-sulfinamide | 4.53 mmol, 2 g | BrC=1C=C(C=CC1)C(=NS(=O)C(C)(C)C)C1=C(C(=CC(=C1)Cl)F)C#N | C18H15BrClFN2OS
reactant | 4-bromo-2-methylpyridine | 5.43 mmol, 0.935 g | BrC1=CC(=NC=C1)C | C6H6BrN
product | 1-(3-Bromophenyl)-6-chloro-4-fluoro-1-(2-methylpyridin-4-yl)-1H-isoindol-3-amine | 83% yield | BrC=1C=C(C=CC1)C1(N=C(C2=C(C=C(C=C12)Cl)F)N)C1=CC(=NC=C1)C | C20H14BrClFN3
